US05830920
184 mg of cyanuric chloride, 543.5 mg of D-glucamine and 450 mg of potassium carbonate were stirred at room temperature in 10 ml of water for three days. The thus-obtained crude product was thereupon chromatographed on LiChroprep RP-18 silica gel with water and subsequently with water containing an increasing amount of methanol. The relevant fractions were lyophilized; N,N',N"-(1,3,5-triazine-2,4,6-triyl)-tris-(1-amino-1-desoxy-D-glucitol) was thus obtained as a colorless powder, MS: m/z 619.2 ([M+H]+).

reactant | cyanuric chloride | 184 mg | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | D-glucamine | 543.5 mg | NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H15NO5
reactant | potassium carbonate | 450 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | 10 ml | O | H2O
product | N,N',N"-(1,3,5-triazine-2,4,6-triyl)-tris-(1-amino-1-desoxy-D-glucitol) | N1=C(N=C(N=C1NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C21H42N6O15
